Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Keflex / tacrolimus / cephalexin
 
Attending: ___.
 
Chief Complaint:
right shoulder, left ear, and left hand pain
 
Major Surgical or Invasive Procedure:
___: A revision amputation of the distal half of P3 of the 
left fifth finger

 
History of Present Illness:
___ male h/o dementia, function cadaveric renal transplant but 
also multiple lesions of metastatic SCC, transferred from OSH to 
___ s/p fall from standing onto sidewalk. Per report the fall 
was witnessed by his wife who notes that he is confused/ 
uncooperative at baseline ___ his dementia. Injuries from the 
fall included near complete amputation of the tip of the distal 
phalanx of the left ___ finger as well as a wound on the 
anti-helix of the left ear where per report there was avulsion 
of a prior skin lesion. Plastic Surgery was consulted to address 
the partial amputation of the left ___ finger as well as comment 
on the management of the left ear wound.  Patient demonstrated R 
wrist weakness, underwent radiograph that demonstrated R radial 
fracture for which ortho was consulted.  Patient also had acute 
on chronic kidney failure demonstrated by an elevated 
creatinine.
 
Past Medical History:
L ___ digit amputation, R radial fracture after fall from 
standing
ESRD from diabetic nephropathy, s/p deceased donor kidney 
transplant ___  
CKD
Diabetes mellitus  
HTN  
SDH after fall, resolved  
actinic keratosis  
RUE AV fistula creation  
CAD  
 
Social History:
___
Family History:
HTN in multiple relatives
 
Physical ___:
ADMISSION PHYSICAL EXAM
========================
VS: 99.7 84 180/80 16 96%ra
GEN: NAD, frail appearing, A&Ox0, GCS 11 (E3,V3,M5), able to say
"yes" and "no", not otherwise able to answer questions.
HEENT: Abrasion over R eyebrow. Blood at L helix, with 1x1cm
hematoma consistent with avulsion of skin lesion. 
Chest: Resps nonlabored. 
Abd: Soft, no apparent tenderness
Pelvis: Stable:
___: Warm, no e/o trauma. Winces and indicates R hip pain with
axial loading. 
Ext: L ___ finger partial amputation

DISCHARGE PHYSICAL EXAM
=======================
Vitals: 97.5 56 158/51 16 100%RA
___: AOx2, no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear
Neck: supple. . Has a large approx. 3x3cm left side of neck 
erythematous ulcerated nodule (location of known recurrence of 
SCC)  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, loud precordial 
systolic murmur, rubs, gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema. Dry scaly skin with oncychomycosis on feet.  L ___ finger 
with clean dry bandage. R hand with removable splint
Skin: Large 3x3cm nodule on L sided of neck, L ear with crusted 
lesion on the helix of L ear, multiple crusted lesions on 
forearms, and rough nodular hyperkeratotic papules on forearms. 
Ecchymosis on lateral side of R eye. R shoulder with ecchymosis.
Neuro:  A&Ox2. Motor and sensory grossly intact

 
Pertinent Results:
ADMISSION LABS
==============
___ 12:50AM BLOOD WBC-11.6*# RBC-4.30*# Hgb-12.5*# 
Hct-39.7*# MCV-92 MCH-29.1 MCHC-31.5* RDW-13.3 RDWSD-45.1 Plt 
___
___ 12:50AM BLOOD Neuts-63.4 ___ Monos-8.3 Eos-0.3* 
Baso-0.7 Im ___ AbsNeut-7.37*# AbsLymp-3.11 AbsMono-0.97* 
AbsEos-0.03* AbsBaso-0.08
___ 12:50AM BLOOD ___ PTT-29.8 ___
___ 12:50AM BLOOD Glucose-127* UreaN-24* Creat-1.4* Na-136 
K-5.6* Cl-101 HCO3-22 AnGap-19
___ 12:50AM BLOOD ALT-6 AST-26 AlkPhos-87 TotBili-0.7
___ 12:50AM BLOOD Albumin-3.8
___ 06:23PM BLOOD Lactate-1.4 K-4.5
DISCHARGE AND PERTINENT LABS
============================

___ 04:45AM BLOOD WBC-5.7 RBC-3.58* Hgb-10.5* Hct-33.0* 
MCV-92 MCH-29.3 MCHC-31.8* RDW-13.4 RDWSD-44.9 Plt ___
___ 04:45AM BLOOD Plt ___
___ 04:45AM BLOOD ___ PTT-32.6 ___
___ 04:45AM BLOOD Glucose-117* UreaN-32* Creat-1.4* Na-139 
K-4.5 Cl-104 HCO3-28 AnGap-12
___ 04:45AM BLOOD Calcium-9.2 Phos-3.6 Mg-2.4
___ 04:45AM BLOOD Cyclspr-92*

MICROBIOLOGY
============

urine and blood cx negative

IMAGING
=======
___ OSH CT Head w/o contrast ___ opinion read
IMPRESSION:   
1. No acute intracranial process. 
2. No acute fracture or malalignment of the cervical spine. 
3. Hematoma overlying the frontal bone on the right without 
underlying fracture. 
4. Multinodular thyroid gland for which nonemergent thyroid 
ultrasound is recommended. 
5. Wedge-shaped density in the left upper lobe may represent 
subsegmental atelectasis, potentially postobstructive. 
6. Increase in size of the soft tissue involving the superficial 
soft tissues of the left neck involving the muscles, since ___, worrisome for disease progression. 

___ Glenohumeral shoulder (w/ Y view) Right
IMPRESSION:    
No acute fracture or dislocation of the right shoulder. 
  
___ Knee (AP,L, & oblique) Right
IMPRESSION: 
1. No acute fracture dislocation of the right knee. 
2. Mild patellofemoral degenerative changes. 
3. Old fracture deformity of the right proximal fibular neck. 

___ Head CT w/o contrast
IMPRESSION: 
1. Possible trace dependent blood products in the fourth 
ventricle, stable compared to ___, and slightly 
decreased possible trace dependent blood products in the 
occipital horn of the left lateral ventricle compared to ___.  No new hemorrhage. 
2. Diffuse ventriculomegaly is similar to ___ but 
progressed since ___, disproportionate to the size of 
the sulci.  While 
disproportionate ventriculomegaly most commonly represents 
central 
predominance of parenchymal atrophy, please correlate clinically 
whether the patient may have symptoms of communicating 
hydrocephalus.  
RECOMMENDATION(S):  Follow-up head CT in a few days. 

___ TTE
Conclusions   
 The left atrium is elongated. There is mild symmetric left 
ventricular hypertrophy with normal cavity size and 
regional/global systolic function (LVEF>55%). Right ventricular 
chamber size and free wall motion are normal. The aortic valve 
leaflets are moderately thickened. There is mild aortic valve 
stenosis (valve area 1.2-1.9cm2). Trace aortic regurgitation is 
seen. The mitral valve leaflets are mildly thickened. Trivial 
mitral regurgitation is seen. The estimated pulmonary artery 
systolic pressure is normal. There is no pericardial effusion. 

IMPRESSION: Symmetric LVH with normal global and regional 
biventricular systolic function. Mild aortic stenosis. 
 Compared with the prior study (images reviewed) of ___, 
the findings are similar.   

___ WRIST(3 + VIEWS) RIGHT
IMPRESSION: 
Transverse fracture through the distal radius with mild 
impaction and mild dorsal angulation of the distal fracture 
fragment. There is overlying soft tissue edema. 

___ HEAD CT W/O CONTRAST 
IMPRESSION:
1. Stable trace dependent blood products in occipital horn of 
the left lateral
ventricle.  Stable linear hyperdensity in the fourth ventricle, 
which may
represent choroid versus hemorrhage.  No new hemorrhage.
2. Stable diffuse ventriculomegaly.

 
Brief Hospital Course:
___ h/o dementia, ESRD from diabetic nephropathy s/p cadaveric 
renal transplant in ___, hx of hemorrhagic CVA in ___ and 
multiple skin lesions from metastatic SCC, transferred from OSH 
to ___ s/p fall from standing onto sidewalk most likely from 
syncope, with hospitalization notable for acute on chronic 
kidney failure. 

#Traumatic injuries
#Left ___ finger avulsion
#Left ear abrasion
#Right distal radius fracture
At ___ he had CT imaging that revealed no 
acute fractures or intracranial processes. He was seen and 
evaluated by the plastic surgery team for a left ___ digit 
avulsion and a left ear abrasion. They preformed a bedside 
revision amputation of the distal half of P3 of the left fifth 
finger. They recommend follow up in ___ days, 2 weeks of 
augmentin 875mg BID (last day ___ and daily local wound care 
with xeraform and gauze. For the left ear abrasion they 
recommend daily local wound care with xeraform and gauze. He 
will follow up as an outpatient in ___ clinic. He had a 
protective splint made for the left ___ finger. Patient had 
right wrist weakness, swelling, and pain. Had a wrist x-ray 
showing transverse fracture through the distal radius with mild 
impaction and mild dorsal angulation of the distal fracture 
fragment. Was evaluated by orthopedics who placed a removable 
splint and recommended outpatient follow up in 1 week post 
discharge. He should remain non-weight bearing in RUE in 
removable splint. Pain was controlled with Tylenol and oxycodone 
which was transitioned to home tramadol. 

___ on CKD s/p renal transplant in ___ on cyclosporine. 
Baseline Cr 1.4-1.5. Creatinine uptrended to 2.1 most likely due 
to pre-renal from poor oral intake post fall. Home furosemide 
was held until day of discharge. Urine sediment was evaluated by 
transplant nephrology and was consistent with ATN. Cyclosporine 
dosing was decreased to 50mg BID until creatinine began to 
downtrend, then moved back to regular dosing (75 mg BID). 
Creatinine at discharge improved to 1.4. CSA at discharge 93. 

#Fall - Unclear if patient experienced syncope vs mechanical 
fall as it was not witnessed and patient doesn't have 
recollection given dementia. Syncope work-up including an ECG 
which was unchanged from prior, with a negative troponin at 
___. There was no evidence of seizure. Had 
a repeat TTE which was stable from prior showing mild aortic 
stenosis. Possibly had a vasovagal episode given that patient 
was standing in the heat. Head CT without evidence of major 
bleed although did have trace blood products in ventricles which 
remained stable and was clinically insignificant. He did have 
Second Degree Heart Block Mobitz Type I with intermittent 
bradycardia on telemetry. He was asymptomatic throughout all of 
these. 

#Dementia: Patient confused at baseline per wife and sometimes 
disoriented and not following commands or answering. Was altered 
most likely delirious on ___ in evening which resolved - had a 
repeat HCT which showed trace ventricular blood products stable 
from prior and clinically insignificant, lactate wnl, CBC, Chem7 
unremarkable which was most likely delirium. A repeat head CT on 
___ to follow up on the trace blood products showed stability 
of the trace ventricular blood products, no new hemorrhage. 
Enlarged ventricles were seen which can be suggestive of normal 
pressure hydrocephalus. However, after discussion with the 
patient's wife he has a neurologist that has worked him up for 
it in the past with LPs which were negative. 

#HTN: Patient on carvedilol 12.5mg bid and furosemide for ___ 
swelling at home. Remained hypertensive on floor. Furosemide was 
held given ___. Carvedilol initially increased to 25mg BID but 
became bradycardic. Carvedilol then d/c'd and amlodipine 5mg was 
added. Remained normotensive rest of the time. Added back home 
Lasix on day of discharge.

#Anemia - hemoglobin stable and has improved from 8.6 last year 
to 11.2 this admission and stable.

#Squamous cell carcinoma (SCC) - per wife has recurrent SCC on 
left neck, and multiple cutaneous SCCs and questionable 
metastasis to lung. Has follow-up with ___ IP for bronch bx.
Will pursue outpatient work-up as previously scheduled.

TRANSITIONAL ISSUES
===================
[] bronchoscopy scheduled for ___ to evaluate left 
lung mass
[] complete 14-day augmentin course for left finger amputation 
on ___
[] d/c'd carvedilol for bradycardia, consider starting patient 
on ACE-inhibitor
[] started amlodipine
[] outpatient follow up of questionable squamous cell mets to 
lung vs primary tumor as previously scheduled
[] left ___ finger - daily local wound care with xeraform and 
gauze. 
[] left ear abrasion daily local wound care with xeraform and 
gauze.
[] ortho f/u for R radial fx
[] plastics f/u for L ___ finger 
[] Please check Chem 10 check cyclosporine trough (prior to 
morning dose) ___ and have results faxed to patient's 
transplant nephrologist (Dr. ___: ___
# CODE: DNR/DNI (MOLST in chart)
# CONTACT: ___ (wife/hcp) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Carvedilol 12.5 mg PO BID 
2. Glargine 22 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
3. Furosemide 40 mg PO DAILY 
4. Famotidine 20 mg PO DAILY 
5. Pravastatin 20 mg PO QPM 
6. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
7. TraMADol 50 mg PO DAILY:PRN pain 
8. Vitamin D 1000 UNIT PO DAILY 
9. Gabapentin 300 mg PO TID 
10. CycloSPORINE (Neoral) MODIFIED 75 mg PO Q12H 

 
Discharge Medications:
1. Famotidine 20 mg PO DAILY 
2. Glargine 22 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
3. Pravastatin 20 mg PO QPM 
4. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
5. Acetaminophen 650 mg PO Q8H:PRN pain 
6. amLODIPine 5 mg PO DAILY 
7. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
last day ___ 
8. Furosemide 40 mg PO DAILY 
9. TraMADol 50 mg PO DAILY:PRN pain 
10. Vitamin D 1000 UNIT PO DAILY 
11. CycloSPORINE (Neoral) MODIFIED 75 mg PO Q12H 
12. Gabapentin 300 mg PO TID 
13. Outpatient Lab Work
Please check Chem 10 check cyclosporine trough (prior to morning 
dose) ___ and have results faxed to patient's transplant 
nephrologist (Dr. ___: ___
ICD10: N18.9
Diagnosis: CKD

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
- Mechanical fall c/b contusions, left ear avulsion injury, 
distal left ___ finger amputation, right distal radial fracture, 
and small IVH
- ATN secondary to volume depletion
- Toxic-metabolic encephalopathy
- Asymptomatic bradycardia (intermittent Wenckebach)

Secondary:
- ESRD ___ diabetic nephropathy, s/p ECD transplant ___
- Left posterior neck SCC s/p resection/XRT, now recurrent
- Left hilar mass concerning for new lung primary
- Diabetes mellitus type II 
- Mild AS ___ 1.2-1.9 cm2)
- Hypertension
- H/O traumatic SDH after fall
- S/P RUE AV fistula

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___.  You were admitted to the Acute Care 
Trauma Surgery Service on ___ after a fall from standing. 
You were found to have a left ___ finger amputation that was 
revised by the plastic surgery team. You were found to have an 
abrasion on the left ear and should continue local wound care. 
You were transferred to the medicine team to find out why you 
fell. We think that you most likely fell by tripping an didn't 
experience a dangerous episode of passing out. You were found to 
have a right wrist-radial fracture and had a removable splint 
placed by orthopedics. You will follow up with them as an 
outpatient. You had some delirium in the hospital and had a head 
CT that showed large ventricles and a tiny amount of blood which 
was stable. Per your wife you already had the finding of large 
ventricles worked up by your neurologist. You also had worsening 
kidney function and were evaluated by the renal transplant team. 
Your cyclosporine was decreased to 50mg twice a day until your 
kidney function began to improve, and we then increased it back 
to 75 mg twice a day (home dose). We also discontinued your 
carvedilol and started amlodipine for better blood pressure and 
heart rate control (your heart rate was sometimes slow).

We wish you the best of health,

Your ___ Care team
 
Followup Instructions:
___